US09447229B2
To a three-necked flask there were added crystalline polyester resin (A-1) (56 parts by mass), methyl ethyl ketone (35 parts by mass) and 2-propyl alcohol (9 parts by mass). Next, stirring was carried out with a three-one motor to dissolve the crystalline polyester resin, and then 26 parts by mass of a 5 mass % ammonia water solution was added. Also, ion-exchanged water (94 parts by mass) was slowly added for reverse phase emulsification, and then the solvent was removed. Next, ion-exchanged water was added to adjust the solid concentration (crystalline polyester resin concentration) to 30 mass %, and a crystalline polyester resin dispersion (LA-1) was obtained as a binder resin dispersion for toner. The volume-average particle diameter (D50v) of the resin particles in the dispersion was 223 nm.

reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
reactant | 2-propyl alcohol | CC(C)O | C3H8O
reactant | ammonia water | O.N
solvent | water | O | H2O
product | LA-1 | CC(=O)/C=C/C=C=C/C=C/C(=O)O | C10H10O3
